US08309734B2
[2-(3-Chloro-4-fluoro-phenoxy)-5-fluoro-pyridin-3-yl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone
The title compound was prepared in analogy to Example 31, Step 2, replacing 2-(2,5-dichloro-phenoxy)-nicotinic acid with 2-(3-chloro-4-fluoro-phenoxy)-5-fluoro-nicotinic acid and 6-methyl-1,2,3,4-tetrahydro-quinoline with 1,2,3,4-tetrahydro-quinoline ([CAS RN 635-46-1]). MS (ISP): 401.0 [M+H]+.

reactant | 2-(3-chloro-4-fluoro-phenoxy)-5-fluoro-nicotinic acid | ClC=1C=C(OC2=C(C(=O)O)C=C(C=N2)F)C=CC1F | C12H6ClF2NO3
reactant | 6-methyl-1,2,3,4-tetrahydro-quinoline | CC=1C=C2CCCNC2=CC1 | C10H13N
reactant | 1,2,3,4-tetrahydro-quinoline | N1CCCC2=CC=CC=C12 | C9H11N
product | [2-(3-Chloro-4-fluoro-phenoxy)-5-fluoro-pyridin-3-yl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone | ClC=1C=C(OC2=NC=C(C=C2C(=O)N2CCCC3=CC=CC=C23)F)C=CC1F | C21H15ClF2N2O2
